US06166006
To acetone (300 ml) were added (2-amino-5-bromophenyl)methanol (23.32 g) and active manganese dioxide (58.5 g), and the mixture was stirred at room temperature for 17.5 hours and filtered. The solvent was evaporated under reduced pressure to give 2-amino-5-bromobenzaldehyde (16.41 g, 71%).

reactant | (2-amino-5-bromophenyl)methanol | 23.32 g | NC1=C(C=C(C=C1)Br)CO | C7H8BrNO
catalyst | manganese dioxide | 58.5 g | [O-2].[O-2].[Mn+4]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 2-amino-5-bromobenzaldehyde | 16.41 g, 71% | NC1=C(C=O)C=C(C=C1)Br | C7H6BrNO
